US04535183
5-(4-Benzofuranyloxy)-N-methylsulphonylpentanamide (0.933 g, 0.003 M) was dissolved in dry methanol (135 ml) and cooled to -65° C. with stirring and exclusion of moisture. Ozonised air was bubbled through the solution at a rate of 20 liters/hr for 45 mins. Nitrogen was then bubbled through the solution (5 mins) to remove excess ozone before the addition of dimethyl sulphide (0.9 ml). The mixture was allowed to warm to room temperature overnight (16 hr). The solvent was removed in vacuo, the residue dissolved in ethyl acetate-ether (1:1), washed with water and extracted with 5% sodium bicarbonate solution. The combined extracts were acidified with concentrated hydrochloric acid the precipitated solid was filtered off, washed wall with water and recrystallised from ethyl acetate-petrol to give 5-(2-formyl-3-hydroxyphenoxy)-N-methylsulphonylpentanamide, m.p. 136°-138° C. (Found: C, 49.54; H, 5.33; N. 4.12, S, 10.14. C13H17NSO6 requires C, 49.51; H, 5.43; N, 4.44; S, 10.17%).

reactant | 5-(4-Benzofuranyloxy)-N-methylsulphonylpentanamide | 0.003 M, 0.933 g | O1C=CC2=C1C=CC=C2OCCCCC(=O)NS(=O)(=O)C | C14H17NO5S
reactant | methanol | 135 ml | CO | CH4O
product | 5-(2-formyl-3-hydroxyphenoxy)-N-methylsulphonylpentanamide | C(=O)C1=C(OCCCCC(=O)NS(=O)(=O)C)C=CC=C1O | C13H17NO6S
